US08729312B2
19 g (78 mmol) of dibenzyl peroxide is dissolved in 125 ml of chloroform at −5° C. 2.2 g (94 mmol) of sodium dissolved in 50 ml of methanol under a nitrogen stream, is added dropwise. After stirring for 30 minutes at −5° C., ice water is added and the medium is acidified with an aqueous solution of 2N sulphuric acid. It is extracted with dichloromethane, then the organic phase is dried over magnesium sulphate, filtered and concentrated. 9 g of perbenzoic acid is obtained in the form of white solid at a yield of 83%.

reactant | dibenzyl peroxide | 78 mmol, 19 g | C(C1=CC=CC=C1)OOCC1=CC=CC=C1 | C14H14O2
reactant | sodium | 94 mmol, 2.2 g | [Na] | Na
reactant | sulphuric acid | 2N | S(O)(O)(=O)=O | H2O4S
solvent | chloroform | 125 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 50 ml | CO | CH4O
product | perbenzoic acid | 9 g, yield of 83% | C1=CC=CC=C1C(=O)OO | C7H6O3
